US09447006B2
A 25 mL RBF was charged with butyraldehyde (155 mg, 2.16 mmol), AcOH (2 mL) and H2SO4 (1 drop). To the flask was then added a solution of (+)-γ-tocopherol (Ex-1C-1) (300 mg, 0.72 mmol) in AcOH (3 mL) dropwise over 2 h via syringe pump. The reaction was then stirred for 16 h and monitored by TLC (9:1 Hept:EtOAc). The reaction was then diluted with water (15 mL) and extracted with DCM (3×20 mL). The combined organic layers were washed with water (3×15 mL), dried over Na2SO4, filtered and concentrated by rotary evaporation to yield 7,9,10-trimethyl-2,4-dipropyl-7-(4,8,12-trimethyl-tridecyl)-4,5,6,7-tetrahydro-1,3,8-trioxa-phenanthrene (Ex-1C-2) as a brownish oil (425 mg, >100%), which was used without further purification.

reactant | butyraldehyde | 2.16 mmol, 155 mg | C(CCC)=O | C4H8O
reactant | (+)-γ-tocopherol | 0.72 mmol, 300 mg | CC1=C(C=C2CC[C@@](OC2=C1C)(C)CCC[C@H](C)CCC[C@H](C)CCCC(C)C)O | C28H48O2
reactant | EtOAc | CCOC(=O)C | C4H8O2
reactant | AcOH | 3 mL | CC(=O)O | C2H4O2
reactant | AcOH | 2 mL | CC(=O)O | C2H4O2
catalyst | H2SO4 | 1 drop | OS(=O)(=O)O | H2O4S
solvent | water | 15 mL | O | H2O
product | 7,9,10-trimethyl-2,4-dipropyl-7-(4,8,12-trimethyl-tridecyl)-4,5,6,7-tetrahydro-1,3,8-trioxa-phenanthrene | 425 mg, >100% | CC1(CCC2=C3C(OC(OC3=C(C(=C2O1)C)C)CCC)CCC)CCCC(CCCC(CCCC(C)C)C)C | C36H62O3
